* /Users/abdonm/Library/CloudStorage/OneDrive-TheUniversityofTexasatAustin/Summer 2026/ECE 402/Lab Notes/Lab 04/Figure46.asc
* Generated by LTspice 26.0.2 for MacOS.
R1 N001 N003 1000
R2 N005 N004 2200
V1 N005 0 3
R3 0 N004 4700
R4 0 N001 2200
R5 N002 N001 4700
V2 0 N002 5
D1 N004 N003 1N4148
.model D D
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.backanno
.end
