* /Users/abdonm/Library/CloudStorage/OneDrive-TheUniversityofTexasatAustin/Summer 2026/ECE 402/Lab Notes/Lab 03/Lab03-Morales-Abdon.asc
* Generated by LTspice 26.0.2 for MacOS.
V1 N001 0 30
V2 0 N004 20
V3 N002 N005 12
R1 N002 N001 50
R2 N002 N004 30
R3 N005 N004 20
R4 N004 N003 15
R5 N003 N002 20
R6 0 N003 80
R7 N005 0 60
.op
* Lab 03\nAbdon Morales\nENGR 2405
.backanno
.end
