* ============================================================================
*  opamp_sat  -  behavioral op-amp for ngspice (KiCad-compatible)
*
*  Purpose: drop-in stand-in for LTSpice's UniversalOpAmp2 in the Lab 7
*  relaxation oscillator. It is a high-gain amplifier whose output hard-clamps
*  to the supply rails, which is the only op-amp property the astable relies on.
*
*  Pin order (needed for KiCad "Pin Assignments"):
*      1 = inp   non-inverting input (+)
*      2 = inn   inverting input (-)
*      3 = vcc   positive supply pin
*      4 = vee   negative supply pin
*      5 = out   output
*
*  VSAT_MARGIN sets how far the output stops short of each rail:
*      0.0  -> clamps essentially to the rails (like UniversalOpAmp2)
*      1.5  -> approximates a real 741 (output swings ~1.5 V inside each rail)
* ============================================================================
.subckt opamp_sat inp inn vcc vee out

.param GAIN=1e6
.param VSAT_MARGIN=0.0

* high-gain differential stage
Bgain ng 0 V = GAIN*(V(inp)-V(inn))

* single dominant pole (~1 kHz) - well above the ~1 Hz oscillation,
* present only to aid convergence and avoid an algebraic loop
Rpole  ng npole 1k
Cpole  npole 0 159n

* output stage: clamp between the two supply-node voltages
Bout nout 0 V = max( min( V(npole), V(vcc)-VSAT_MARGIN ), V(vee)+VSAT_MARGIN )
Rout nout out 100

.ends opamp_sat
